US05434148
3-{9-acetyl-9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-5-hydroxy-1-(4-fluorophenyl)-2-indolinone
In 40 ml of dichloromethane was suspended 1.54 g (3.04 mmole) of 3-{9-acetyl-9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-5-methoxy-1-(4-fluorophenyl)-2-indolinone, and to the suspension was added dropwise under ice cooling a solution of 1.1 ml (4 mole equivalent) of boron tribromide dissolved in 10 ml of dichloromethane. After completion of the dropwise addition, the mixture was stirred for 10 minutes under ice cooling and then stirred at room temperature for 1.5 hours. After completion of the reaction, the reaction mixture was treated with methanol under ice cooling, and then the solvent was removed under reduced pressure. Methanol was added to the residue, and the precipitates were collected by filtration to obtain 1.07 g of a hydrobromide of the title compound as pale yellow crystals. Melting point: 239° to 241° C., IR (Nujol) (cm-1): 1720, 1680, FAB-MS (m/z): 495 (MH+, base)

reactant | 3-{9-acetyl-9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-5-methoxy-1-(4-fluorophenyl)-2-indolinone | 3.04 mmole, 1.54 g | C(C)(=O)N1C2=C(C3=CC=CC=C13)C=C(N=C2)C(=O)C2(C(N(C1=CC=C(C=C21)OC)C2=CC=C(C=C2)F)=O)N | C29H21FN4O4
reactant | boron tribromide | 4 mole, 1.1 ml | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-{9-acetyl-9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-5-hydroxy-1-(4-fluorophenyl)-2-indolinone | 1.07 g | C(C)(=O)N1C2=C(C3=CC=CC=C13)C=C(N=C2)C(=O)C2(C(N(C1=CC=C(C=C21)O)C2=CC=C(C=C2)F)=O)N | C28H19FN4O4
